US05827865
Methyl 3-(4-hydroxyphenyl)-2-(2,2,2-trifluoroethoxy)propanoate
A solution of methyl 2-diazo-3-(4-hydroxyphenyl)propanoate (3.00 g) in 2,2,2-trifluoroethanol (10 mL) was slowly added, over 15 minutes, to a stirred mixture of rhodium (II) acetate dinner (0.064 g) and 2,2,2-trifluoroethanol (5 mL) at room temperature under a nitrogen atmosphere. The mixture was stirred at temperature for 15 minutes, then heated at reflux for 4 hours, cooled and evaporated. The residue was chromatographed on silica gel with 4% ethyl acetate in dichloromethane to afford the title compound, a gum, which was used without further purification.

reactant | methyl 2-diazo-3-(4-hydroxyphenyl)propanoate | 3.00 g | [N+](=[N-])=C(C(=O)OC)CC1=CC=C(C=C1)O | C10H10N2O3
reactant | 2,2,2-trifluoroethanol | 10 mL | FC(CO)(F)F | C2H3F3O
reactant | 2,2,2-trifluoroethanol | 5 mL | FC(CO)(F)F | C2H3F3O
catalyst | rhodium (II) acetate dinner | 0.064 g | CC(=O)O.CC(=O)O.CC(=O)O.CC(=O)O.[Rh].[Rh]
product | Methyl 3-(4-hydroxyphenyl)-2-(2,2,2-trifluoroethoxy)propanoate | OC1=CC=C(C=C1)CC(C(=O)OC)OCC(F)(F)F | C12H13F3O4
